US06346527B1
To a solution of ethyl 3-methylthio-2-(3-ethoxycarbonylpropoxy)benzoate (3.83 g) in a mixture of ethanol (34 μl) and N,N-dimethylformamide (40 ml) was added 60% sodium hydroxide (1.03 mg) at 5° C. After the mixture was allowed to stir at room temperature for 15.5 hours, it was poured into ice-water and extracted with ethyl acetate (x 3). The combined extracts were washed with water (x 2) and brine, dried over magnesium sulfate, and evaporated in vacuo. The crude product was purified by column chromatography on silica gel using a mixture of n-hexane and ethyl acetate (20:1) to give ethyl 9-methylthio-5-oxo-2,3,4,5-tetrahydro-1-benzoxepin-4-carboxylate (2.61 g, colorless crystals).

reactant | ethyl 3-methylthio-2-(3-ethoxycarbonylpropoxy)benzoate | 3.83 g | CSC=1C(=C(C(=O)OCC)C=CC1)OCCCC(=O)OCC | C16H22O5S
reactant | sodium hydroxide | 1.03 mg | [OH-].[Na+]
solvent | ethanol | 34 μl | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | ethyl 9-methylthio-5-oxo-2,3,4,5-tetrahydro-1-benzoxepin-4-carboxylate | 2.61 g | CSC1=CC=CC=2C(C(CCOC21)C(=O)OCC)=O | C14H16O4S
